// Generated for: spectre
// Generated on: May  2 12:17:19 2021
// Design library name: project
// Design cell name: strongARM_tb
// Design view name: schematic
simulator lang=spectre
global 0
parameters vdd=0.63 vg=0
include "/home/ff/ee241/spring21-labs/asap7PDK_r1p5/models/hspice/7nm_TT.pm"

// Library name: project
// Cell name: strongARM_alib
// View name: schematic
subckt strongARM_alib CLK GND VDD Vin1 Vin2 outn outp
    M10 (net23 CLK VDD VDD) pmos_rvt w=27n l=20n
    M9 (outp CLK VDD VDD) pmos_rvt w=27n l=20n
    M8 (net19 CLK VDD VDD) pmos_rvt w=27n l=20n
    M7 (outn CLK VDD VDD) pmos_rvt w=27n l=20n
    M6 (outp outn VDD VDD) pmos_rvt w=27n l=20n
    M5 (outn outp VDD VDD) pmos_rvt w=27n l=20n
    M4 (outn outp net19 GND) nmos_rvt w=81n l=20n
    M3 (outp outn net23 GND) nmos_rvt w=81n l=20n
    M2 (net18 CLK GND GND) nmos_rvt w=162n l=20n
    M1 (net19 Vin2 net18 GND) nmos_rvt w=81n l=20n
    M0 (net23 Vin1 net18 GND) nmos_rvt w=81n l=20n
ends strongARM_alib
// End of subcircuit definition.

// Library name: project
// Cell name: strongARM_tb
// View name: schematic
V0 (net1 0) vsource dc=vdd type=dc
V3 (Vin2 0) vsource type=pulse val0=vdd/2 val1=vdd/2 period=1 delay=3u
V2 (Vin1 0) vsource type=pulse val0=vdd/2 val1=vdd/2 period=8u delay=5u
V1 (CLK 0) vsource type=pulse val0=0 val1=vdd period=4u delay=2u
I0 (CLK 0 net1 Vin1 Vin2 outn outp) strongARM_alib
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vg start=0 stop=0.7 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
tran tran stop=10m errpreset=liberal noisefmax=6G noiseseed=1 \
    write="spectre.ic" writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save outn outp CLK Vin1 Vin2 V0:p 
saveOptions options save=allpub
